US09402841B2
Step A: tert-butyl (1-(3-cyanoisoquinolin-1-yl)pyrrolidin-3-yl)carbamate
A mixture of 1-chloroisoquinoline-3-carbonitrile (438 mg, 2.322 mmol), tert-butyl pyrrolidin-3-ylcarbamate (519 mg, 2.79 mmol) and Et3N (0.653 mL, 4.64 mmol) in NMP (3 mL) was heated at 160° C. for 30 minutes in a microwave reactor. The crude reaction mixture, which contained the title compound, was used directly in the next step.

reactant | 1-chloroisoquinoline-3-carbonitrile | 2.322 mmol, 438 mg | ClC1=NC(=CC2=CC=CC=C12)C#N | C10H5ClN2
reactant | tert-butyl pyrrolidin-3-ylcarbamate | 2.79 mmol, 519 mg | N1CC(CC1)NC(OC(C)(C)C)=O | C9H18N2O2
reactant | Et3N | 4.64 mmol, 0.653 mL | CCN(CC)CC | C6H15N
solvent | NMP | 3 mL | CN1CCCC1=O | C5H9NO
product | tert-butyl (1-(3-cyanoisoquinolin-1-yl)pyrrolidin-3-yl)carbamate | C(#N)C=1N=C(C2=CC=CC=C2C1)N1CC(CC1)NC(OC(C)(C)C)=O | C19H22N4O2
